US07465815B2
3-(4-Ethylphenyl)-4,6,7-trimethyl-2,3-dihydro-1-benzofuran-5-amine
Using 3-(4-ethylphenyl)-4,6,7-trimethyl-1-benzofuran-5-amine obtained in Reference Example 311, the title compound was synthesized in the same manner as in Reference Example 144. Yield 80%. Melting point: 88-89° C. (hexane).

reactant | 3-(4-ethylphenyl)-4,6,7-trimethyl-1-benzofuran-5-amine | C(C)C1=CC=C(C=C1)C1=COC2=C1C(=C(C(=C2C)C)N)C | C19H21NO
solvent | hexane | CCCCCC | C6H14
product | 3-(4-Ethylphenyl)-4,6,7-trimethyl-2,3-dihydro-1-benzofuran-5-amine | Yield 80% | C(C)C1=CC=C(C=C1)C1COC2=C1C(=C(C(=C2C)C)N)C | C19H23NO
